US09212155B2
A crude solution of 3-(3-fluorophenyl)butyric acid ethyl ester, 10.1 g, 48 mmol] in ethanol (50 mL) was treated with 10 M NaOH solution (50 mL, 857 mmol). The reaction mixture was refluxed overnight. The reaction mixture was dried under reduced pressure in order to get rid of the ethyl alcohol. The resulting residue was re-dissolved in 150 mL of water. The mixture was transferred to a separatory funnel using water (50 mL) and diethyl ether (200 mL). The mixture was equilibrated and the ether layer was removed. The aqueous layer was acidified by HCl solution (pH˜2) and extracted with diethyl ether (300 mL). The organic layer was dried over magnesium sulfate, filtered, and concentrated under reduced pressure. This afforded 8.1 g of an orange viscous oil, 3-(3-fluorophenyl)butyric acid (92.6% yield). This material was determined to be 100% pure by GC/MS analysis.

reactant | 3-(3-fluorophenyl)butyric acid ethyl ester | C(C)OC(CC(C)C1=CC(=CC=C1)F)=O | C12H15FO2
reactant | NaOH | 857 mmol, 10 M, 50 mL | [OH-].[Na+]
reactant | diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | water | 150 mL | O | H2O
solvent | water | 50 mL | O | H2O
product | 3-(3-fluorophenyl)butyric acid | 92.6% yield | FC=1C=C(C=CC1)C(CC(=O)O)C | C10H11FO2
